US05155100
To a stirred solution of (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid (0.6 g, 1.07 mmol) in ethyl acetate (9 mL) is added triethylamine (0.19 mL, 1.34 mmol) followed by 2-chloro-N,N-diethylacetamide (0.18 mL, 1.34 mmol) and sodium iodide (20 mg, 0.13 mmol). The solution is heated under nitrogen at 80° for 12 hours. The precipitate is filtered off and the filtrate is treated with water (10 mL) and 2N HCl (0.5 mL). The organic layer is separated, dried over sodium sulfate and filtered. After evaporation of the solvent under reduced pressure, the semi-solid residue is purified by flash chromatography on silica gel, eluting with ethyl acetate. The title compound is finally crystallized from ethyl acetate-hexane to yield N,N-diethylcarbamoylmethyl (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate, m.p. 68°-74°, [α]D =-20.55 (c=0.84, CHCl3).

reactant | (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionic acid | 1.07 mmol, 0.6 g | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)CN[C@H](C(=O)NCCC(=O)O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C31H31N2O6P
reactant | triethylamine | 1.34 mmol, 0.19 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-N,N-diethylacetamide | 1.34 mmol, 0.18 mL | ClCC(=O)N(CC)CC | C6H12ClNO
reactant | sodium iodide | 0.13 mmol, 20 mg | [I-].[Na+]
solvent | ethyl acetate | 9 mL | C(C)(=O)OCC | C4H8O2
product | N,N-diethylcarbamoylmethyl (S)-N-[2-(diphenylphosphonomethylamino)-3-(4-biphenylyl)-propionyl]-3-aminopropionate | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)CN[C@H](C(=O)NCCC(=O)OCC(N(CC)CC)=O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C37H42N3O7P
